US04921852
To a solution of (2S,4R)-2-acetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.5 g) in tetrahydrofuran (80 ml) was added pyridinium bromide perbromide (2.59 g) at 5°-10° C. After stirring at room temperature for 3 hours, the mixture was poured into water (80 ml) and ethyl acetate (160 ml). The separated organic layer was washed with 1N hydrochloric acid, saturated aqueous sodium bicarbonate and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was subjected to a column chromatography on silica gel (60 g) eluting with a mixture of acetone and dichloromethane (1:20 V/V) to give (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (2.98 g).

reactant | (2S,4R)-2-acetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.5 g | C(C)(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H18N2O8S
reactant | pyridinium bromide perbromide | 2.59 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | water | 80 ml | O | H2O
reactant | ethyl acetate | 160 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | (2S,4R)-2-bromoacetyl-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 2.98 g | BrCC(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C15H17BrN2O8S
